US20010027196A1
2-Amino-4-furan-2-yl-6-[(5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and C-(5-trifluoromethyl-pyridin-2-yl)-methylamine in DME. ES-MS m/e (%): 361 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | C-(5-trifluoromethyl-pyridin-2-yl)-methylamine | FC(C=1C=CC(=NC1)CN)(F)F | C7H7F3N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[(5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=NC=C(C=C1)C(F)(F)F | C16H11F3N6O
